* 
*#SIMETRIX
X1 V3_P R1_P V1_P 0 X1_out LM324 pinnames: inp inn vsp vsn out
V1 V1_P 0 5
V2 V2_P 0 AC 1
R1 R1_P C1_P 1K
V3 V3_P 0 5
R2 X1_out R1_P 100k
R3 C2_P 0 1K
C1 C1_P V2_P 100n   
C2 C2_P X1_out 10u   
.AC DEC 25 1k 1Meg

